US05559143
6A) 6-Bromo-N-[4-(trifluoromethyl)pentyl]-hexanamide
Triethylamine (1.30 mL) and 4-aminobenzotrifluoride (1.21 g) were stirred in dichloromethane (35 mL) at 0° C. under nitrogen and treated with 6-bromohexanoyl chloride (1.15 mL). After 20 minutes, the reaction was allowed to warm to 20° C. and stirred an additional 40 minutes. The reaction was treated with aqueous saturated sodium bicarbonate (40 mL), and extracted with dichloromethane. The extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to a solid. This solid was dissolved ethyl acetate and the title compound was precipitated out as fine white needles by addition of hexanes (2.35 g). M.p. 96°-98° C. Anal. Calc. for C13H15BrF3NO: C, 46.17;H, 4.47;N, 4.14. Found: C, 46.25;H, 4.59;N, 4.12.

reactant | Triethylamine | 1.30 mL | C(C)N(CC)CC | C6H15N
reactant | 4-aminobenzotrifluoride | 1.21 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | 6-bromohexanoyl chloride | 1.15 mL | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 6-Bromo-N-[4-(trifluoromethyl)pentyl]-hexanamide | BrCCCCCC(=O)NCCCC(C)C(F)(F)F | C12H21BrF3NO
